US04833169
5.0 g (26.0 mmol) of crude 2-(6-methoxyindan-1-yl)ethanol are dissolved in 50 ml of dichloromethane and, while cooling with ice, 3.6 g (31 mmol) of methanesulphonic acid chloride and 3.1 g (31 mmol) of triethylamine are added dropwise. The mixture is stirred at room temperature for 3 hours, the triethylammonium chloride which has precipitated is filtered off and the filtrate is extracted by shaking with ice-water. The organic phases are washed with saturated sodium chloride solution, dried over magnesium sulphate and concentrated by evaporation at 40° under reduced pressure. Methanesulphonic acid 2-(6-methoxyindan-1-yl)ethyl ester is obtained which can be used without further purification.

reactant | 2-(6-methoxyindan-1-yl)ethanol | 26.0 mmol, 5.0 g | COC1=CC=C2CCC(C2=C1)CCO | C12H16O2
reactant | methanesulphonic acid chloride | 31 mmol, 3.6 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 31 mmol, 3.1 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Methanesulphonic acid 2-(6-methoxyindan-1-yl)ethyl ester | COC1=CC=C2CCC(C2=C1)CCOS(=O)(=O)C | C13H18O4S
